US05462947
A solution of diisopropylamine (19.2 mL, 0.135 tool) in THF (75 mL) was added dropwise at room temperature to n-BuLi in hexane (67.5 mL, 0.135 mol) under argon atmosphere. The mixture was stirred for 0.5 h and then brought to -78 ° CC. A solution of 2, 6dichlorophenyl acetonitrile (25 g, 0.135 mol) in THF (50 mL) was added dropwise while the reaction mixture was maintained at -78 ° CC. The resulting mixture was stirred for 1 h, whereafter a solution of ethyl-3-bromopropionate (17.2 mL, 0.135 mol) in THF (50 mL) was added dropwise. The resulting mixture was stirred for 1 h, and then allowed to reach room temperature. After an additional 1 h at 25 ° CC., the mixture was quenched with 10% aqueous hydrochloride solution. The phases were separated and the aqueous phase was extracted with diethyl ether (3×75 mL). The combined organic phases were dried (MgSO 4), filtered, and concen-trated in vacuo affording ethyl-4-cyano-4-(2,6-dichlorophenyl)-butanoate (37 g) as an oil. A solution of the butanoate (3.53 g, 15 mmol) in HCl-saturated ethanol (100 mL) was hydrogenated at 50 psi over PrO2 (0.9 g) in a Parr apparatus. Removal of the catalyst by filtration, followed by evaporation of tie EtOH, yielded an oily residue. The oil was taken up in 15% NaOH and was extracted with diethylether (3×30 mL), dried, filtered, and concentrated in vacuo. The oily residue was purified by flash chromatography using CH2Cl2 /MeOH (19/1) as eluent, affording pure racemic-69 (0.9 g, 85%): MS m/e 244.95 (M+ +1, 15.1), 243.95 (M+, 3.5), 242.95 (M+ -1, 24.1), 208.00 (19.3), 179.00 (29.3), 173.9 (61.3), 171.9 (100), 137.00 (31.6), 115.00 (20.5)

reactant | diisopropylamine | 19.2 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-BuLi | [Li]CCCC
reactant | hexane | 0.135 mol, 67.5 mL | CCCCCC | C6H14
reactant | 2, 6dichlorophenyl acetonitrile | 0.135 mol, 25 g | ClC1=C(C(=CC=C1)Cl)CC#N | C8H5Cl2N
reactant | ethyl-3-bromopropionate | 0.135 mol, 17.2 mL | C(C)OC(CCBr)=O | C5H9BrO2
solvent | THF | 75 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | ethyl-4-cyano-4-(2,6-dichlorophenyl)-butanoate | 37 g | C(C)OC(CCC(C1=C(C=CC=C1Cl)Cl)C#N)=O | C13H13Cl2NO2
